US09145380B2
2-[2-(4-Cyclopentylethynyl-phenyl)-ethanesulfonylamino]-5-hydroxymethyl-benzenesulfonamide
The title compound was synthesized as described for Example 210 in 11% yield, starting from 2-[2-(4-bromo-phenyl)-ethanesulfonylamino]-5-hydroxymethyl-benzenesulfonamide and ethynyl-cyclopentane. Purification by preparative HPLC.

reactant | 2-[2-(4-bromo-phenyl)-ethanesulfonylamino]-5-hydroxymethyl-benzenesulfonamide | BrC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=C(C=C1)CO)S(=O)(=O)N | C15H17BrN2O5S2
reactant | ethynyl-cyclopentane | C(#C)C1CCCC1 | C7H10
product | 2-[2-(4-Cyclopentylethynyl-phenyl)-ethanesulfonylamino]-5-hydroxymethyl-benzenesulfonamide | 11% yield | C1(CCCC1)C#CC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=C(C=C1)CO)S(=O)(=O)N | C22H26N2O5S2
